data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5859,"COC1=CC=C([CH2:1][Br+:2][Al-]([Cl])([Cl])[Cl])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,642,"CC1=N[C:1]([OH:2])=[CH:3]C(O)=N1.O.O=S(=O)([O-])O.O=[N+:4]=[O:5]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,635,"CC(O[Si-](C)(C)(C)OS(C)(=O)=O)=[NH:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7814,"O=[N+]([O-])[CH2:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5254,"C[S+:1]1C[CH2:2]1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8257,"CCC#N.CCO[C:1](=[CH:2]C)[O-:3].O=C=O.[H:4][OH:5].[Na+]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9595,"C=CC1=C(N)C=CC=C1.CC(C)(C)OC(=O)O[C:1](OC(C)(C)C)=[O:2].CN(C)C1=CC=[N:3]C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4028,"CC(=O)[O:1][H:2].CC(CCC(=O)C1=CC=CC=C1)(NC1CCCCC1N)[OH:3].CO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6895,"C1C[NH+]2CCN1CC2.COC1=CC=CC(C([O-])[C:1](=[C:2](C)[O-:3])[CH2:4][N+:5]23CCN(CC2)CC3)=C1O|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,123,"CC(=O)OCC1OC([O+:1](C2=CC=CC=C2)[H:2])C(OC(C)=O)C(OC(C)=O)C1OC(C)=O.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6045,"CC(C)(C)[O:1]C.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8902,"C1=CC2=C(C=C1)C(CC[NH2:1])=CN2.CC(C)(C)OC(=O)C([O-])(C(=O)CC1=CC=CC=C1)[NH+:2](CCC1=CNC2=CC=CC=C12)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6510,"CC(=O)[O:1][H:2].CN=C=[N:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7877,"COC1=C2OC3C(N=[N:1][H:2])CCC4(O)C5CC(=C2C34CCN5CC2CCC2)C=C1.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,949,"CCNC(CC#N)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6841,"C1=CC=[N:1]C=C1.CC(C)=CCCC(C)=CC=O.CCCCCC1=CC([O:2][H:3])=CC(O)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2838,"CC(=O)[OH:1].O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10195,"CC(=O)[O-:1].CO[P+:2](N=[N+]=[N-])(OC)[O:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,9913,"O=C(O[C:1]1=[CH:2]C=CC=C1)C1=CC=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6704,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]C[C:3]2=[CH:4][CH:5]=[C:6]([O:7]C)C=C2)C=C1.O=CO|(7, 6);((6, 5), 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3558,"CC(=O)O.CC(=O)[O-:1].COC1=CC=C(COC2C(C3=C(OC)N=C(OC)N=C3)OC3C2OC[C:2]([H:3])([O:4][I+:5]2(OC(C)=O)OC(=O)C4=C2C=CC=C4)C3N=[N+]=[N-])C=C1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8537,"C#C[C+:1]1C=CC=C[C:2]1(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4571,"CN=C=[N+:1](C)[H:2].O=P(O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4042,"CC(=O)[O-].CCC[C:1](OC(C)(C)C)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3].CC[NH+](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,659,"COC1=C(C)C=C2CC(C)[C:1]([N:2]3CCCC3)=[CH:3]C2=C1.[CH2:4]=[CH:5][CH:6]=[O:7]|(2, 1);((1, 3), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,283,"[H:1][AlH3-:2].[Li][O+:3]=[C:4](CCC)N(C)CCC|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7808,"C1=CC=C(C[C:1](=[C:2]2NCCC3=C2NC2=C3C=CC=C2)[OH:3])C=C1.O=C(C(F)(F)F)[O:4][H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7955,"CC(C[CH:1]=[CH:2]CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)[O+:3]=[CH2:4].C[O+]1CC[O][Ti-2]1([Cl])([Cl])([Cl])[Cl]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,210,"O=C(C=C(O)CC1=CC=CC=C1)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8671,"C=C1CCCCC12CC(CC)OC(O)([OH:1])C2.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1793,"CC[CH+:1]C1=CC=CC=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,1976,"CC(C)=CCC1=C(O)C=C(O)C(C=O)=C1C(C1=C([O-])C(Cl)=C(C)C(Cl)=C1O)[OH:1].CC[N+:2](CC)(CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2875,"CCOC(=O)CC[C:1](C)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6071,"O=S(=O)(O)C1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,12,"C[OH:1].Cl[C:2](C1=CC=CC=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8895,"CN(C)[C:1]([C:2](C)(Br)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5364,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CO.C[O:3]C(OCC1OC(OC2C(N=[N+]=[N-])CC(N=[N+]=[N-])C(OC3OC(CN=[N+]=[N-])C(O)C(O)C3O)C2O)C(O)C(N=[N+]=[N-])C1O)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8264,"CCCC1COC(O)([OH:1])C1.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2286,"O=S(=O)(O)[C:1]1([H:2])C=C[C+:3](CBr)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,7781,"BrC1=CC=C2C(=C1)CC[CH:1]([H:2])[C:3]2=[N+:4]1CCOCC1.C1C[NH:5]CCO1.[OH][Ti-]([Cl])([Cl])([Cl])[Cl]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7988,"CCC(C1C=CC=CC1)[O:1][B-](F)(F)F.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2305,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)[N:1]1CCCC(O)[C:2]1(C1=CC=CC=C1)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8067,"C[S:1](=[NH2+:2])[O-:3]|(3, 1);((1, 2), 2)"
